US08648089B2
3-(4-methoxyphenyl)-1-(2-(methylsulfinyl)pyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole
m-Chloroperoxybenzoic acid (m-CPBA; 70%, 95 mg, 0.384 mmol) was added to a mixture solution of 3-(4-methoxyphenyl)-1-(2-(methylthio)pyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole (90 mg, 0.192 mmol) in methylene chloride (10 mL) at 0° C. 2 hours later, after adding saturated sodium bicarbonate aqueous solution at 0° C., the mixture was extracted with ethyl acetate. The collected organic layer was washed with brine and concentrated under reduced pressure by drying with anhydrous magnesium sulfate. The target compound (90 mg) was obtained as white solid.

reactant | m-Chloroperoxybenzoic acid | 0.384 mmol, 95 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-(4-methoxyphenyl)-1-(2-(methylthio)pyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole | 0.192 mmol, 90 mg | COC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=NC(=NC=C1)SC | C26H20N4O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-methoxyphenyl)-1-(2-(methylsulfinyl)pyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole | 90 mg | COC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=NC(=NC=C1)S(=O)C | C26H20N4O4S
